US07214802B2
To 15 mL of MeCN was added 880 mg (4.99 mmol) of N-benzyl-piperazine and 1.16 g (5.00 mmol) of 1,2-dimethyl-isothiourea hydroiodide. The mixture was heated at reflux overnight. Then, 970 mg (5.02 mmol) of 2-bromo-3-isopropoxy-propenal and 2.07 g (15.0 mmol) of K2CO3, and 250 mg of 18-crown-6 were added and the mixture was heated to reflux overnight. The mixture was cooled, concentrated, and dissolved in EtOAc with a small amount of water to dissolve salts. The aqueous phase was extracted twice with EtOAc, and the combined the organics were washed with water and brine, dried over MgSO4, concentrated, and chromatographed to provide 250 mg of 2-(4-benzyl-piperazin-1-yl)-3-methyl-3H-imidazole-4-carbaldehyde and 2-(4-benzyl-piperazin-1-yl)-1-methyl-1H-imidazole-4-carbaldehyde as a 1:1 mixture of isomers.

reactant | N-benzyl-piperazine | 4.99 mmol, 880 mg | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 1,2-dimethyl-isothiourea hydroiodide | 5.00 mmol, 1.16 g | I.CNC(SC)=N
reactant | 2-bromo-3-isopropoxy-propenal | 5.02 mmol, 970 mg | BrC(C=O)=COC(C)C | C6H9BrO2
reactant | K2CO3 | 15.0 mmol, 2.07 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 18-crown-6 | 250 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | MeCN | 15 mL | CC#N | C2H3N
product | 2-(4-benzyl-piperazin-1-yl)-3-methyl-3H-imidazole-4-carbaldehyde | 250 mg | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=C(N1C)C=O | C16H20N4O
